US07498440B2
Preparation of 1-{3-[(2-bromophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0472 g, 0.161 mmol) and 2-bromophenyl 3-bromopropyl ether (0.0648 g, 0.220 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0703 g, 74.8%). EI-MS m/z 507(M+) Rt (2.18 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.161 mmol, 0.0472 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-bromophenyl 3-bromopropyl ether | 0.220 mmol, 0.0648 g | BrCCCOC1=C(C=CC=C1)Br | C9H10Br2O
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{3-[(2-bromophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0703 g, 74.8% | [Br-].BrC1=C(C=CC=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33BrNO2.BrH/c30-26-14-7-8-15-27(26)33-23-9-19-31-20-16-28(17-21-31,18-22-31)29(32,24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-8,10-15,32H,9,16-23H2;1H/q+1;/p-1
